US06562828B1
4-[2-(N,N′-Di-tert-Butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-carboxylic Acid Benzyl Ester
To a solution of N,N′-di-tert-butoxycarbonyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine (50 mg) and 4-bromomethylpiperidine-1-carboxylic acid benzyl ester (120 mg) in dimethyl sulfoxide (1 ml) was added 4N aqueous sodium hydroxide solution (0.13 ml), and the mixture was stirred at room temperature for 17 hours. After completion of the reaction, water was added, and the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=5:1) and dried under reduced pressure to give the title compound (55 mg).

reactant | N,N′-di-tert-butoxycarbonyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 50 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)O | C20H29N3O5
reactant | 4-bromomethylpiperidine-1-carboxylic acid benzyl ester | 120 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CBr | C14H18BrNO2
reactant | sodium hydroxide | 4N, 0.13 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 4-[2-(N,N′-Di-tert-Butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-carboxylic Acid Benzyl Ester | 55 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(NC(=O)OC(C)(C)C)=NC(=O)OC(C)(C)C | C34H46N4O7
